US09359336B2
The mixture of 1-(2-(2-amino-5-isocyanopyridin-3-yl)benzo[b]thiophen-5-yl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (1.3 g, 2.67 mmol, 1 eq), ammonium chloride (286 mg, 2 eq), and sodium azide (347 mg, 2 eq) in anhydrous dimethylformamide (8 mL) under nitrogen atmosphere was stirred and heated at 120° C. for 2 hours. The mixture was then cooled to room temperature and additional ammonium chloride (286 mg, 2 eq) and sodium azide (347 mg, 2 eq) were added. The reaction mixture was heated back to 120° C. and stirred at that temperature for another hour. After it was cooled to room temperature, it was transferred into a mixture of ethyl acetate and aqueous ammonium chloride; during the process, the pH of the aqueous layer was adjusted to 3˜4ish by using aq KHSO4 (10%). The organic layer was isolated, washed once with saturated brine, and dried with anhydrous sodium sulfate. The upper solution was decanted and concentrated down with silica gel. Upon gradient column chromatography (from EtOAc to MeOH-EtOAc 1:2), 1-{2-[2-amino-5-(2H-tetrazol-5-yl)pyridin-3-yl]-1-benzothien-5-yl}-3-[4-chloro-3-(trifluoromethyl)phenyl]urea was obtained as a yellow solid in the amount of 452 mg.

reactant | 1-(2-(2-amino-5-isocyanopyridin-3-yl)benzo[b]thiophen-5-yl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 2.67 mmol, 1.3 g, 1 eq | NC1=NC=C(C=C1C1=CC2=C(S1)C=CC(=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)[N+]#[C-] | C22H13ClF3N5OS
reactant | ammonium chloride | 286 mg, 2 eq | [Cl-].[NH4+]
reactant | sodium azide | 347 mg, 2 eq | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 286 mg, 2 eq | [Cl-].[NH4+]
reactant | sodium azide | 347 mg, 2 eq | [N-]=[N+]=[N-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{2-[2-amino-5-(2H-tetrazol-5-yl)pyridin-3-yl]-1-benzothien-5-yl}-3-[4-chloro-3-(trifluoromethyl)phenyl]urea | NC1=NC=C(C=C1C=1SC2=C(C1)C=C(C=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)C=2N=NNN2 | C22H14ClF3N8OS
